US07932272B2
2-Methyl-benzoxazole-6-carboxylic Acid
To a solution of 2-methyl-benzoxazole-6-carboxylic acid methyl ester (301 mg, 1.57 mmol) in ethanol (10 mL) was added an aqueous solution of 2N sodium hydroxide (10 mL), and the mixture was stirred for 2 hours at room temperature. 2N Hydrochloric acid was added to the reaction mixture to adjust the pH to 4, and the solution was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate, then, evaporated in vacuo, and the title compound (270 mg, 1.52 mmol, 97%) was obtained. This was used in the next reaction without purification.

reactant | 2-methyl-benzoxazole-6-carboxylic acid methyl ester | 1.57 mmol, 301 mg | COC(=O)C1=CC2=C(N=C(O2)C)C=C1 | C10H9NO3
reactant | sodium hydroxide | 2N, 10 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 2N | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-Methyl-benzoxazole-6-carboxylic Acid | 1.52 mmol, 270 mg, 97% | CC=1OC2=C(N1)C=CC(=C2)C(=O)O | C9H7NO3
